US09302991B2
<Step-3>:methyl 6-(2,2-difluoroethoxy)-5-ethylnicotinate
The title compound is prepared in 88% yield (660 mg, clear colorless oil) from methyl 5-bromo-6-(2,2-difluoroethoxy)nicotinate (900 mg, 3.0 mmol, Step-2) and diethylzinc instead of dimethylzinc by the similar manner in Step-3 of Amine-27.

reactant | methyl 5-bromo-6-(2,2-difluoroethoxy)nicotinate | 3.0 mmol, 900 mg | BrC=1C(=NC=C(C(=O)OC)C1)OCC(F)F | C9H8BrF2NO3
reactant | diethylzinc | C(C)[Zn]CC
product | methyl 6-(2,2-difluoroethoxy)-5-ethylnicotinate | 88% yield | FC(COC1=NC=C(C(=O)OC)C=C1CC)F | C11H13F2NO3
